### ISSUE TITLE
ゴールの型を指定する case

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#1703]
https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/.E2.9C.94.20Tactics.20to.20focus.20on.20a.20specified.20goal.3F

**Comment by Seasawher** [comment]
```
import Mathlib.Tactic.Common
import Batteries.Tactic.Case

lemma mwe (p q r : Prop) (himp : p -> q -> r) (hp : p) (hq : q) : r := by
  apply himp
  case _ : q =>
    apply hq
  case _ : p =>
    apply hp
```
